US08492582B2
Ethyl acetate (1 mL) and a 4 mol/L hydrogen chloride-dioxane solution (0.50 mL) were added to the obtained tert-butyl 4-(3-hydroxy-4-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)phenoxy)piperidine-1-carboxylate (0.025 g), followed by stirring at room temperature for 3 hours. The solid substance was collected from the reaction mixture by filtration to obtain 0.018 g of methyl 2-(2-hydroxy-4-(piperidin-4-yloxy)benzamido)-4-phenylbenzoate hydrochloride as a white solid.

reactant | hydrogen chloride dioxane | 4 mol/L, 0.50 mL | Cl.O1CCOCC1
reactant | tert-butyl 4-(3-hydroxy-4-(2-(methoxycarbonyl)-5-phenylphenylcarbamoyl)phenoxy)piperidine-1-carboxylate | 0.025 g | OC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1C(NC1=C(C=CC(=C1)C1=CC=CC=C1)C(=O)OC)=O | C31H34N2O7
solvent | Ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-hydroxy-4-(piperidin-4-yloxy)benzamido)-4-phenylbenzoate hydrochloride | 0.018 g | Cl.OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)OC1CCNCC1 | InChI=1S/C26H26N2O5.ClH/c1-32-26(31)21-9-7-18(17-5-3-2-4-6-17)15-23(21)28-25(30)22-10-8-20(16-24(22)29)33-19-11-13-27-14-12-19;/h2-10,15-16,19,27,29H,11-14H2,1H3,(H,28,30);1H
